US09403831B2
In a pressure tube reactor, ((S)-5-(1-((4-(5-bromopyrimidin-2-yl)morpholine-2-yl)methyl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-6-yl)-2-fluorobenzonitrile 50 mg (0.10 mmol) was added, and then potassium carbonate 41 mg (0.30 mmol) was added. Pd(dppf)2Cl2 4 mg (0.005 mmol) was further added, followed by 1,4-dioxane ml, 1-(2-((tetrahydro-2H-pyran-2-yl)oxy)ethyl)-4-(4,4,5,5-tetra methyl-1,3,2-dioxaborolane-2-yl)-1H-pyrazole 38 mg (0.12 mmol) and then H2O 0.5 ml. The mixture was stirred at room temperature for 10 minutes under nitrogen gas, and then stirred at 80° C. for 2 hours. When the reaction was completed, the organic layer was extracted with ethyl acetate and water, and the extra water was removed by sodium sulfate, followed by concentration under reduced pressure. Column chromatography using 60% ethyl acetate/hexane gave 2-fluoro-5-(1-(((2S)-4-(5-(1-(2-((tetrahydro-2H-pyran-2-yl)oxy)ethyl)-1H-pyrazol-4-yl)pyrimidin-2-yl)morpholine-2-yl)-methyl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-6-yl)benzonitrile 49 mg (0.08 mmol) with a yield of 80%.

reactant | (S)-5-(1-((4-(5-bromopyrimidin-2-yl)morpholine-2-yl)methyl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-6-yl)-2-fluorobenzonitrile | 0.10 mmol, 50 mg | BrC=1C=NC(=NC1)N1C[C@H](OCC1)CN1N=NC=2C1=NC(=CN2)C=2C=CC(=C(C#N)C2)F | C20H15BrFN9O
reactant | potassium carbonate | 0.30 mmol, 41 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1,4-dioxane | O1CCOCC1 | C4H8O2
reactant | 1-(2-((tetrahydro-2H-pyran-2-yl)oxy)ethyl)-4-(4,4,5,5-tetra methyl-1,3,2-dioxaborolane-2-yl)-1H-pyrazole | 0.12 mmol, 38 mg | O1C(CCCC1)OCCN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C16H27BN2O4
catalyst | Pd(dppf)2Cl2 | 0.005 mmol, 4 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | H2O | 0.5 ml | O | H2O
product | 2-fluoro-5-(1-(((2S)-4-(5-(1-(2-((tetrahydro-2H-pyran-2-yl)oxy)ethyl)-1H-pyrazol-4-yl)pyrimidin-2-yl)morpholine-2-yl)-methyl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-6-yl)benzonitrile | 0.08 mmol, 49 mg, yield of 80% | FC1=C(C#N)C=C(C=C1)C1=CN=C2C(=N1)N(N=N2)C[C@@H]2CN(CCO2)C2=NC=C(C=N2)C=2C=NN(C2)CCOC2OCCCC2 | C30H30FN11O3
